US05071985
In this connection, the demethylation of compounds of relatively simple structure by means of a couple sulfonic acid/derivative of the sulfide type, for instance methanesulfonic acid or trifluoromethanesulfonic acid and methionine, is known. This method is reported in particular in J. C. S. Perkin I. pp. 2288-2289 (1977). The results obtained with this method are usually very varied (yield of demethylated compounds varies from 30 to 90%) and may be poor. This is the case for p-methoxyacetophenone: no reaction is recorded at 20° C. and only 30% yield of p-hydroxyacetophenone is obtained after 72 hours at 60° C.

reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | p-methoxyacetophenone | COC1=CC=C(C=C1)C(C)=O | C9H10O2
product | p-hydroxyacetophenone | 30% yield | OC1=CC=C(C=C1)C(C)=O | C8H8O2
